US07205292B2
Step G. 3-(4-Piperidinyl)-1,3,4,5-tetrahydro-2H-1,3-benzodiazapin-2-one hydrochloride
A solution of 3-(1-t-butoxycarbonyl-4-piperidinyl)-1,3,4,5-tetrahydro-2H-1,3-benzodiazapin-2-one (4.80 g, 13.9 mmol) in ethyl acetate (300 mL) was saturated with hydrogen chloride gas at 0° C. The reaction was allowed to warm to room temperature and stirred overnight. The solid was filtered and washed with ethyl acetate. The ethyl acetate filtrate was concentrated for a second crop. The title compound was obtained as a solid (2.94 g). MS 246 (M+1). 1H NMR (500 MHz, CD3OD) δ 7.10 (m, 2H), 6.94 (d, J=8 Hz, 1H), 6.91 (t, J=8 Hz, 1H), 4.35 (tt, J=10, 1 Hz, 1H), 3.52 (m, 4H), 3.12 (t, J=12 Hz, 2H), 3.05 (m, 2H), 2.07 (qd, J=12, 4 Hz, 2H), 1.99 (m, 2H).

reactant | 3-(1-t-butoxycarbonyl-4-piperidinyl)-1,3,4,5-tetrahydro-2H-1,3-benzodiazapin-2-one | 13.9 mmol, 4.80 g | C(C)(C)(C)OC(=O)N1CCC(CC1)N1C(NC2=C(CC1)C=CC=C2)=O | C19H27N3O3
reactant | hydrogen chloride | Cl | ClH
solvent | ethyl acetate | 300 mL | C(C)(=O)OCC | C4H8O2
product | 3-(4-Piperidinyl)-1,3,4,5-tetrahydro-2H-1,3-benzodiazapin-2-one hydrochloride | Cl.N1CCC(CC1)N1C(NC2=C(CC1)C=CC=C2)=O | InChI=1S/C14H19N3O.ClH/c18-14-16-13-4-2-1-3-11(13)7-10-17(14)12-5-8-15-9-6-12;/h1-4,12,15H,5-10H2,(H,16,18);1H
